US06967204B2
Sodium pellets (3.39 g, 148 mmol) were dissolved in ethanol (100 ml) under nitrogen at room temperature and a solution of diethyloxalate (20 ml, 147 mmol) in 3-methyl-2-butanone (18.9 ml, 177 mmol) was added dropwise at room temperature over 30 minutes. The reaction was diluted with ethanol (100 ml), heated to 60° C. and stirred at this temperature for 2 hours. After cooling to room temperature the reaction was poured onto ice-cold 2N HCl (200 ml) and extracted with diethylether (300 ml) and ethyl acetate (300 ml). The combined organic extracts were dried over MgSO4, concentrated under reduced pressure and the residue was purified by flash column chromatography on silica gel eluting with a solvent gradient of pentane:ethyl acetate (99:1 changing to 95:5, by volume) to give 4-methyl-3-oxo-pentanoic acid ethyl ester (23.8 g) as a yellow oil. 1H NMR (400 MHz, CDCl3): δ=14.40-14.80 (1H, brs), 6.40 (1H, s), 4.30-4.39 (2H, quart), 260-2.71 (1H, quin), 1.35-1.40 (3H, t), 1.15-1.20 (6H, d) ppm. LRMS (electrospray): m/z [M−H]+ 185.

reactant | Sodium | [Na] | Na
reactant | diethyloxalate | 147 mmol, 20 ml | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | 3-methyl-2-butanone | 177 mmol, 18.9 ml | CC(C(C)=O)C | C5H10O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-methyl-3-oxo-pentanoic acid ethyl ester | 23.8 g | C(C)OC(CC(C(C)C)=O)=O | C8H14O3
